US06127354
(2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid (444 mg, 1.35 mmol) and successively 1-hydroxy-7-azabenzotriazole (184 mg, 1.35 mmol) were dissolved in N,N-dimethylformamide (5 ml) and dichloromethane (7 ml). The solution was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (259 mg, 1.35 mmol) was added. The reaction mixture was stirred for 15 min at 0° C. A solution of N-(2-(2-(methylamino)ethyl)phenyl)methanesulfonamide (308 mg, 1.35 mmol) was added. Ethyldiisopropylamine (0.23 ml, 1.35 mmol) was added. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate and washed with 10% aqueous sodium hydrogen sulfate solution (70 ml). The aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogen carbonate (150 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (60 g), using ethyl acetate/heptane (1:1) as eluent, to give 245 mg of N-((1R)-1-(N-(2-(2-(methylsulfonylamino)phenyl)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl-ester.

reactant | (2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid | 1.35 mmol, 444 mg | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-hydroxy-7-azabenzotriazole | 1.35 mmol, 184 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 1.35 mmol, 259 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-(2-(2-(methylamino)ethyl)phenyl)methanesulfonamide | 1.35 mmol, 308 mg | CNCCC1=C(C=CC=C1)NS(=O)(=O)C | C10H16N2O2S
reactant | Ethyldiisopropylamine | 1.35 mmol, 0.23 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-((1R)-1-(N-(2-(2-(methylsulfonylamino)phenyl)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl-ester | 245 mg | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)CCC1=C(C=CC=C1)NS(=O)(=O)C)=O)=O | C29H37N3O5S
